US05753664
2-[4-(4-Chlorobenzoyl)benzyl]thio-3-methyl-4(3H)-quinazolinone
2-Mercapto-3-methyl-4(3H)-quinazolinone (1.0 g) as synthesized by the method described in Chemical Pharmaceutical Bulletin 17, 2357, 1969 and sodium hydroxide (250 mg) were dissolved in 50% ethanol (15 ml)-DMF (15 ml). To this solution was added 4-(4-chlorobenzoyl)benzyl bromide (1.8 g) and the mixtrue was stirred at room temperature for 1 hour. This-reaction mixture was poured in water and the resulting crystals were collected by filtration, rinsed with water and methanol, and recrystallized from ethyl acetate-methanol to provide the title compound as colorless solid (1.29 g). 1H-NMR (CDCl3) δ: 3.61(3H,s), 4.62(2H,s), 7.35-7.50(3H,m), 7.55-7.80(8H,m), 8.24(1H,d,J=8.OHz).

reactant | 2-Mercapto-3-methyl-4(3H)-quinazolinone | 1.0 g | SC1=NC2=CC=CC=C2C(N1C)=O | C9H8N2OS
reactant | sodium hydroxide | 250 mg | [OH-].[Na+]
reactant | 4-(4-chlorobenzoyl)benzyl bromide | 1.8 g | ClC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrClO
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[4-(4-Chlorobenzoyl)benzyl]thio-3-methyl-4(3H)-quinazolinone | 1.29 g | ClC1=CC=C(C(=O)C2=CC=C(CSC3=NC4=CC=CC=C4C(N3C)=O)C=C2)C=C1 | C23H17ClN2O2S
